US04079144
2-(2,4-xylylimino)-3-methyl-thiazoline
19.4 g (0.1 mole) of N-2,4-xylyl-N'-methyl-thiourea and 15.2 g (0.1 mole) of chloroacetaldehyde-diethylacetal in 150 ml of 2N aqueous hydrochloric acid are refluxed for 1 hour. The clear light-yellow solution is subsequently cooled to room temperature; it is rendered slightly alkaline with 30% aqueous medium hydroxide solution, and extracted with ether. The ether extract is washed with water, dried with sodium sulphate and filtered, and the ether is then distilled off. The oily residue is distilled; b.p. 132°-134° C/0.3 Torr; yield: 20.2 g = 92% of theory.

reactant | N-2,4-xylyl-N'-methyl-thiourea | 0.1 mole, 19.4 g | C1(=C(C=C(C=C1)C)C)NC(=S)NC | C10H14N2S
reactant | chloroacetaldehyde-diethylacetal | 0.1 mole, 15.2 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | hydroxide | [OH-]
solvent | hydrochloric acid | 2N, 150 ml | Cl | ClH
product | 2-(2,4-xylylimino)-3-methyl-thiazoline | C1(=C(C=C(C=C1)C)C)N=C1SC=CN1C | C12H14N2S
